US03960949
1-Ethyl-2-isopropylbiguanide Hydroiodide
9.2 g. (30 mmol) of 2-methyl-1-ethyl-3-guanyl isothiourea hydroiodide is agitated with 30 ml. of water and 11.8 g. (200 mmol) of isopropylamine for 48 hours at 30° C. and then for 2 hours at the boiling temperature. Excess isopropylamine, methyl mercaptan, and water are removed. To the oily residue, 2 ml. of concentrated aqueous sodium iodide solution and then water are added until a clear solution is obtained. The product is crystallized during standing in a refrigerator and is recrystallized from acetone-petroleum ether.

reactant | 2-methyl-1-ethyl-3-guanyl isothiourea hydroiodide | 30 mmol | I.CSC(NCC)=NC(N)=N
reactant | isopropylamine | 200 mmol | C(C)(C)N | C3H9N
solvent | water | O | H2O
product | 1-Ethyl-2-isopropylbiguanide Hydroiodide | I.C(C)NC(=NC(C)C)NC(=N)N | InChI=1S/C7H17N5.HI/c1-4-10-7(11-5(2)3)12-6(8)9;/h5H,4H2,1-3H3,(H5,8,9,10,11,12);1H
